US04075001
A mixture of 93.3 g of 3-amino-2-cyano-3-(1-pyrrolidinyl)propenenitrile, 58.2 g of triethylamine and 400 ml of pyridine was heated at 60°-65° and hydrogen sulfide passed in for 21/2 hours. While continuing the addition of hydrogen sulfide, the temperature of the mixture was increased to 80°, where it was maintained for two and a half hours. The mixture stood for 64 hours at ambient temperature, then was heated at 90° for 21/2 hours. The mixture was concentrated under reduced pressure. The tan solid residue was stirred with 750 ml of ice-water, the cold slurry was filtered and the solid was washed with cold water. The washed solid was recrystallized from 1200 ml of ethanol to give 87.4 g (three crops) of 3-amino-2-cyano-3-(1-pyrrolidinyl)propenethioamide, m.p. 164°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(1-pyrrolidinyl)propenenitrile | 93.3 g | NC(=C(C#N)C#N)N1CCCC1 | C8H10N4
reactant | triethylamine | 58.2 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 3-amino-2-cyano-3-(1-pyrrolidinyl)propenethioamide | 87.4 g | NC(=C(C(N)=S)C#N)N1CCCC1 | C8H12N4S
